US07125990B2
(3-Nitro-pyridin-2-yl)-(2,4,6-trimethyl-phenyl)-amine, scheme 1: (B)
A mixture of 2-chloro-3-nitro-pyridine (24.05 g, 152 mmol), 2,4,6-trimethylaniline (60 ml, 427 mmol), and Cs2CO3 (59.4 g, 182.4 mmol) was heated at 100° C. for 24 h. Flash chromatography using 1) methylene chloride/Hexanes (1:4) and 2) methylene chloride, followed by recrystallization from 95% ethanol. The title compound was obtained as an orange-yellow crystals (17.0 g, 44% yield). 1H NMR (CDCl3, 5 MHz) δ 9.38 (s, 1H), 8.51 (d, J=5.8 Hz, 1H), 8.38 (s, 1H), 7.00 (s, 2H), 6.73 (s, 1H), 2.34 (s, 3H), 2.18(s, 6H); 13C NMR (CDCl3, 100 MHz) δ 156.2, 152.1, 137.2, 135.7, 135.4, 132.3, 129.1, 128.3, 112.8, 21.1, 18.5.

reactant | 2-chloro-3-nitro-pyridine | 152 mmol, 24.05 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2,4,6-trimethylaniline | 427 mmol, 60 ml | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | Cs2CO3 | 182.4 mmol, 59.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3-Nitro-pyridin-2-yl)-(2,4,6-trimethyl-phenyl)-amine | [N+](=O)([O-])C=1C(=NC=CC1)NC1=C(C=C(C=C1C)C)C | C14H15N3O2
